Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / aspirin / G6PD
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: The patient is a ___ male w/PMHx G6PD deficiency and
hypertension presenting with influenza and possible bacterial
pneumonia.  He was in his USOH until ___ when he
developed cough, went to ___ on ___,
was given Zithromax, cough medication and Tylenol.  He went home
and ___ had sweats and T 101, got the cough medication,
felt worse ___ and then the cough became productive of
yellow sputum, and he felt worse so he came to ___ today.  He
also notes malaise, myalgias, sore abdomen from coughing and
congestion.  No chest pains but a bit of chest tightness
associated with congestion.  Of note, an office mate had the flu
recently.

In the ED: Tmax 100.1, HR 53-106 (w/fever), BP 
110s-130s/70s-90s,
RR ___, sat 100% on RA.  Given IVF, APAP, ketorolac, CXR 
showed
possible PNA, flu swab positive for flu B. Cr 1.6, WBC 2.4 w/49%
PMNs, Plt 123.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___, MD

 
Past Medical History:
PMHx:
Hypertension
Headaches
G6PD deficiency diagnosed as a child

PSHx:
No surgeries

 
Social History:
___
Family History:
FHx:
No h/o G6PD or respiratory problems

 
Physical Exam:
Admission Physical Exam:
VS: T 98.3, HR 82, BP 119/92, RR 20, O2 sat 100% on RA
Lines/tubes: PIV
Gen: middle aged man lying in bed, alert, cooperative, fatigued
but otherwise NAD
HEENT: anicteric, PERRL, MMM, no oral lesions
Chest: equal chest rise, CTAB posteriorly, no sig adventitial
sounds, no WOB or cough while I'm in the room
Cardiovasc: RRR, no m/r/g
Abd: soft, NTND
Extr: WWP, no edema
Skin: no rashes noted on limited exam
Neuro: no obvious focal deficits noted
Psych: normal affect

Discharge Physical Exam:

 
Pertinent Results:
Labs and Micro:
___: WBC: 2.4*
___: HGB: 11.9*
___: HCT: 36.6*
___: Plt Count: 123*
___: ___: 10.4
___: INR: 1.0
___: PTT: 30.4
___: Na: 137
___: K: 3.5
___: Cl: 100
___: CO2: 30
___: BUN: 15
___: Creat: 1.6*
___: eGFR: 57
___: Glucose: 93
___: ALT: 11
___: AST: 27
___: Alk Phos: 44
___: Total Bili: 0.6
___: Alb: 3.6

Imaging:
CXR -- IMPRESSION: Probable developing right lower lobe
pneumonia.

Influenza swab -- Flu B positive

BCx x 2 NGTD

___ 01:41PM BLOOD WBC-2.4* RBC-4.31* Hgb-11.9* Hct-36.6* 
MCV-85 MCH-27.6 MCHC-32.5 RDW-12.2 RDWSD-37.2 Plt ___
___ 06:27AM BLOOD WBC-1.9* RBC-4.00* Hgb-10.9* Hct-34.1* 
MCV-85 MCH-27.3 MCHC-32.0 RDW-12.0 RDWSD-37.9 Plt ___
___ 06:55AM BLOOD WBC-3.4*# RBC-4.01* Hgb-10.9* Hct-34.4* 
MCV-86 MCH-27.2 MCHC-31.7* RDW-11.9 RDWSD-37.6 Plt ___
___ 01:41PM BLOOD Neuts-48.6 ___ Monos-17.3* 
Eos-0.8* Baso-0.4 AbsNeut-1.15* AbsLymp-0.78* AbsMono-0.41 
AbsEos-0.02* AbsBaso-0.01
___ 06:27AM BLOOD Neuts-38 Bands-0 ___ Monos-10 Eos-0 
Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-0.72* AbsLymp-0.99* 
AbsMono-0.19* AbsEos-0.00* AbsBaso-0.00*
___ 06:55AM BLOOD Neuts-57.0 ___ Monos-10.5 
Eos-0.3* Baso-0.3 AbsNeut-1.95# AbsLymp-1.09* AbsMono-0.36 
AbsEos-0.01* AbsBaso-0.01
___ 01:41PM BLOOD Plt ___
___ 06:27AM BLOOD Plt Smr-LOW Plt ___
___ 06:55AM BLOOD Plt ___
___ 01:41PM BLOOD Glucose-93 UreaN-15 Creat-1.6* Na-137 
K-3.5 Cl-100 HCO3-30 AnGap-11
___ 06:27AM BLOOD Glucose-113* UreaN-11 Creat-1.5* Na-137 
K-4.0 Cl-105 HCO3-27 AnGap-9
___ 06:55AM BLOOD Glucose-93 UreaN-8 Creat-1.2 Na-141 K-3.9 
Cl-108
___ 06:55AM BLOOD TotBili-0.9 DirBili-<0.2 IndBili-0.9
___ 06:27AM BLOOD Calcium-7.9* Phos-1.6* Mg-1.8
___ 06:55AM BLOOD Calcium-8.2* Phos-2.2* Mg-1.7
___ 10:35AM BLOOD calTIBC-192* VitB12-309 Folate-5.1 
Ferritn-299 TRF-148*
___ 06:55AM BLOOD Hapto-178
___ 10:35AM BLOOD HIV Ab-Negative
 
Brief Hospital Course:
ASSESSMENT
___ man w/PMHx G6PD deficiency, hypertension, admitted with 
Influenza B and suspected bacterial pneumonia.  Treating as 
noted below.

HOSPITAL COURSE
Influenza B and suspected bacterial pneumonia
- BCx show no growth to date, and he did well on levofloxacin 
and oseltamivir here on the floor and will complete ___t home of each.  A note for work and FMLA form was provided to 
him, and faxed to his insurance (respectively)

Acute renal failure
- was pre-reanl etiology and normalized after IVF

Hypertension
- HCTZ restarted on discharge

Pancytopenia
- suspect ___ influenza.  NEutropenia resolved.  
Thromboctyopenia and anemia are mild and persist, and he was 
instructed to ___ with his PCP for further ___.  An HIV Ab 
test was negative.

FEN
- regular diet, replete electrolytes PRN (goal K >=4.0, Mg 
>=2.0)

Care Preferences: has not done other forms of advance care 
planning (e.g. living will) and has not thought about the kind 
of care he'd want if he got really sick some day

Transitional issues: 
1) Needs f/u for anemia and thrombocytopenia as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0
3. OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir [Tamiflu] 75 mg 1 capsule(s) by mouth twice a 
day Disp #*7 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute influenza
Comm Acquired pneumonia
Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with acute influenza and possible bacterial 
pneumonia.  You were treated with oseltamivir and antibiotics. 
Your course was complicated by low blood counts, presumably from 
the viral infection. The white blood cell count improved on its 
own, though you still have mildly low red blood cell (anemia) 
and platelets (thrombogytopenia) which will need follow-up with 
your PCP -- an appointment was made for ___ **please keep 
this appointment**.
 
Followup Instructions:
___